US07985769B2
To a stirred mixture of 3-(bis-(Toluene-2-sulfonyl)-amino)-thiophene-2-carboxylic acid methyl ester (2.5 g, 5.35 mmol) in 1,4-dioxane/MeOH/water (3:1:1; 62.5 mL) was added aq. 1 N NaOH solution (16.05 mL, 16.05 mmol, 3.0 eq) and heated at 85° C. for 3.5 h and it was then cooled to rt. To the reaction mixture was added 1.2 N HCl (16.0 mL), extracted with CHCl3 (3×30 mL), washed with brine and dried. Evaporation of the solvent gave 3-(Toluene-2-sulfonylamino)-thiophene-2-carboxylic acid (1.5 g, 99%) as a white solid. 1H NMR (DMSO-d6, 300 MHz) 7.94 (dd, J=7.9 Hz, 1.3 Hz, 1H), 7.76 (d, J=5.5 Hz, 1H), 7.55 (dt, J=7.5 Hz, 1.3 Hz, 1H), 7.42-7.37 (m, 2H), 7.1 (d, J=5.5 Hz, 1H), 2.57 (s, 3H).

reactant | 3-(bis-(Toluene-2-sulfonyl)-amino)-thiophene-2-carboxylic acid methyl ester | 5.35 mmol, 2.5 g | COC(=O)C=1SC=CC1N(S(=O)(=O)C=1C(=CC=CC1)C)S(=O)(=O)C=1C(=CC=CC1)C | C20H19NO6S3
reactant | NaOH | 16.05 mmol, 1 N, 16.05 mL, 3.0 eq | [OH-].[Na+]
reactant | HCl | 1.2 N, 16.0 mL | Cl | ClH
solvent | 1,4-dioxane MeOH water | 62.5 mL | O1CCOCC1.CO.O
product | 3-(Toluene-2-sulfonylamino)-thiophene-2-carboxylic acid | 1.5 g, 99% | C=1(C(=CC=CC1)S(=O)(=O)NC1=C(SC=C1)C(=O)O)C | C12H11NO4S2
